US06008245
Similar to Example 8b, 0.5 g of N-(6-hydroxy-2,2-dimethyl-2H-chromen-4-yl)-N-methyl-methanesulfonamide was alkylated with 1 -iodopropane, giving 0.36 g of N-(6-propoxy-2,2-dimethyl-2H-chromen-4-yl)-N-methyl-methanesulfonamide; m.p. 93-95° C.

reactant | N-(6-hydroxy-2,2-dimethyl-2H-chromen-4-yl)-N-methyl-methanesulfonamide | 0.5 g | OC=1C=C2C(=CC(OC2=CC1)(C)C)N(S(=O)(=O)C)C | C13H17NO4S
reactant | 1 -iodopropane | ICCC | C3H7I
product | N-(6-propoxy-2,2-dimethyl-2H-chromen-4-yl)-N-methyl-methanesulfonamide | 0.36 g | C(CC)OC=1C=C2C(=CC(OC2=CC1)(C)C)N(S(=O)(=O)C)C | C16H23NO4S
